US06235742B1
5-[4-(1-Imidazolyl)benzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one
5-(4-Bromobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one (390 mg, 0.00108 mol), imidazole (380 mg, 0.00558 mol), potassium carbonate (160 mg, 0.00116 mol), copper bronze (75 mg) and iodine (46 mg, 0.00018 mol) in N-methyl-2-pyrrolidinone (6 ml) were heated under a nitrogen atmosphere at 200° C. for 3 hours. On cooling, the mixture was concentrated under reduced pressure and the residue partitioned between ethyl acetate (10 ml) and water (10 ml). The aqueous phase was extracted with ethyl acetate (30 ml), and the combined organic extracts washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure.

reactant | 5-(4-Bromobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 0.00108 mol, 390 mg | BrC1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C16H17BrN4O
reactant | imidazole | 0.00558 mol, 380 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.00116 mol, 160 mg | C([O-])([O-])=O.[K+].[K+]
reactant | iodine | 0.00018 mol, 46 mg | II | I2
solvent | N-methyl-2-pyrrolidinone | 6 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper bronze | 75 mg | [Cu] | Cu
product | 5-[4-(1-Imidazolyl)benzyl]-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | N1(C=NC=C1)C1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C19H20N6O
